US09056874B2
(±)-2-((5,7-Dimethyl-1H-indol-4-yl)(methylamino)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoro-N-methylacetamide and (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoro-N-methylacetamide as described in Example 64-B and 64-C. 1H NMR (TFA salt, 400 MHz, ACETONITRILE-d3) δ ppm 9.52 (br. s, 1H) 8.00 (s, 1H) 7.54-7.62 (m, 2H) 7.16 (s, 1H) 6.98 (s, 1H) 6.33 (s, 1H) 6.06 (s, 1H) 2.68 (s, 3H) 2.55 (s, 3H) 2.49 (s, 3H). HRMS calcd. for C20H19N5 (M+H)+ 330.1713. found 330.1716.

reactant | (±)-N-((5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoro-N-methylacetamide | C(#N)C1=CC2=C(N(C(=N2)C(N(C(C(F)(F)F)=O)C)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C=C1 | C35H38F3N5O4SSi
reactant | (±)-N-((6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)(5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-2,2,2-trifluoro-N-methylacetamide | C(#N)C=1C=CC2=C(N(C(=N2)C(N(C(C(F)(F)F)=O)C)C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)COCC[Si](C)(C)C)C1 | C35H38F3N5O4SSi
product | (±)-2-((5,7-Dimethyl-1H-indol-4-yl)(methylamino)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)C(C1=NC2=C(N1)C=CC(=C2)C#N)NC | C20H19N5
